US07977351B2
4-Chloro-3H-furo[3,4-c]pyridin-1-one
A solution of 2,2,6,6-tetramethyl-piperidine (4.05 ml, 24 mmol) in a 100 ml round bottomed flask equipped with a magnetic stirrer, is put under argon atmosphere and 20 ml of dry THF is added. The reaction mixture is cooled to −50° C. by adding a controlled amount of dry ice to an acetone bath. The cooled reaction mixture is treated dropwise with nBuLi solution (8.8 mL of a 2.5 M solution in hexanes, 22 mmol) and the reaction is let stir at −50° C. for 0.5 h. Solid 2-chloro-isonicotinic acid, (1.58 g, 10 mmol) is added as a solid to the reaction mixture at −50° C. The reaction is stirred at −50° C. for 0.5 h. The reaction mixture is treated with paraformaldehyde (7 equivalents) dropwise at −50° C. The reaction is stirred at −50° C. for 2 h and warmed to room temperature overnight. The reaction mixture is concentrated to remove solvent and water and ether are added. The aqueous layer is extracted with ether (6×50 ml). The aqueous phase is treated with aqueous 1N HCl solution, until the pH of aqueous layer is ˜5 and is then extracted with ether (2×40 mL). The aqueous solution is treated with aqueous 1N HCl solution until the pH ˜2. An oily residue separated which from solution is collected to give the title compound as a yellow oil (0.62 g, 36%).

reactant | 2,2,6,6-tetramethyl-piperidine | 24 mmol, 4.05 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | dry ice | C(=O)=O | CO2
reactant | nBuLi | [Li]CCCC
reactant | 2-chloro-isonicotinic acid | 10 mmol, 1.58 g | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | paraformaldehyde | 7 equivalents | C=O | CH2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-Chloro-3H-furo[3,4-c]pyridin-1-one | 0.62 g, 36% | ClC1=NC=CC2=C1COC2=O | C7H4ClNO2
